US07687627B2
(S)-N-{3-[4-(1,3-dioxa-8-aza-spiro[4.5]dec-8-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide
The compound was prepared by reacting (S)-N-{3-[4-(4-hydroxy-4-hydroxymethyl-piperidin-1-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide (0.3 mmol), paraformaldehyde (0.3 mmol), p-toluene sulfonic acid (0.3 mmol), 4° A molecular sieves (0.5 g) in benzene (10 ml) and by purifying on silica gel column chromatography to provide title compound in 57% yield.

reactant | (S)-N-{3-[4-(4-hydroxy-4-hydroxymethyl-piperidin-1-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide | 0.3 mmol | OC1(CCN(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CNC(C)=O)=O)F)CO | C18H24FN3O5
reactant | paraformaldehyde | 0.3 mmol | C=O | CH2O
reactant | p-toluene sulfonic acid | 0.3 mmol | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
product | (S)-N-{3-[4-(1,3-dioxa-8-aza-spiro[4.5]dec-8-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide | 57% yield | O1COCC12CCN(CC2)C2=C(C=C(C=C2)N2C(O[C@H](C2)CNC(C)=O)=O)F | C19H24FN3O5
